US04739050
2-(N-Acetylmethylamino)-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine (compound No. 69)
To a stirred suspension of 2-(4-acetoxyphenyl)-2-(N-acetylmethylamino)-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzothiazine (3.2 g, compound No. 70) in tetrahydrofuran (20 ml), a mixture of 2N sodium hydroxide (20.8 ml) and tetrahydrofuran (20 ml) is added. The mixture is stirred for 20 minutes at room temperature and poured into 2N hydrochloric acid. The separated crystals are collected by filtration to give 2.6 g (91.6%) of the titled compound.

reactant | 2-(4-acetoxyphenyl)-2-(N-acetylmethylamino)-3,4-dihydro-4-methyl-3-oxo-2H-1,4-benzothiazine | C(C)(=O)OC1=CC=C(C=C1)C1(SC2=C(N(C1=O)C)C=CC=C2)NCC(C)=O | C20H20N2O4S
reactant | sodium hydroxide | 2N, 20.8 ml | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-(N-Acetylmethylamino)-3,4-dihydro-2-(4-hydroxyphenyl)-4-methyl-3-oxo-2H-1,4-benzothiazine | 2.6 g, 91.6% | C(C)(=O)CNC1(SC2=C(N(C1=O)C)C=CC=C2)C2=CC=C(C=C2)O | C18H18N2O3S
